US07825253B2
N2-(2,6-Dimethoxy-benzyl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=401.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 2,6-dimethoxybenzylamine and 3-(aminomethyl)pyridine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 2,6-dimethoxybenzylamine | COC1=C(CN)C(=CC=C1)OC | C9H13NO2
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | N2-(2,6-Dimethoxy-benzyl)-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)NCC=2C=NC=CC2)C(=CC=C1)OC | C24H24N4O2
